US04242510
N,N-Dimethylformamide (0.579 g.), phosphoryl chloride (1.214 g.) and ethyl acetate (3 ml.) were treated in a conventional manner to give a Vilsmeier reagent and the reagent was added to ethyl acetate (7 ml.). To the solution was added 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid (syn isomer, 2.00 g.) under stirring to give an activated acid solution. On the other hand, 7-amino-3-cephem-4-carboxylic acid (1.46 g.), trimethylsilylacetamide (3.84 g.), bis(trimethylsilyl)acetamide (4.40 ml.) and ethyl acetate (24 ml.) were stirred to prepare a solution. To the solution was added all at once the activated acid solution at -10° C., and stirred at the same temperature for 1.5 hours. After adding water (30 ml.) and ethyl acetate (15 ml.) to the resultant solution, the solution was shaken sufficiently and the organic layer was separated. An aqueous solution of sodium bicarbonate (30 ml.) was added to the organic solution, shaken sufficiently and the aqueous layer was separated. The solution was adjusted to pH 2.0 with conc. hydrochloric acid and extracted with ethyl acetate (60 ml.). The extract was washed with water (20 ml.) twice, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diisopropyl ether (50 ml.) and the precipitates were collected by filtration to give 7-[2-(2,3-dihydro-1,4-oxathiin-6yl)-2-n-hexyloxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.40 g.).

reactant | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid | 2.00 g | O1CCSC=C1C(C(=O)O)=NOCCCCCC | C12H19NO4S
reactant | 7-amino-3-cephem-4-carboxylic acid | 1.46 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | trimethylsilylacetamide | 3.84 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 4.40 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 24 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6yl)-2-n-hexyloxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.40 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCCCC | C19H25N3O6S2
